US05072007
50 ml stainless steel autoclave was charged with 2.2 g (20 mmol) of resorcin, 2.32 g (40 mmol) of acetone, 9.2 g (200 mmol) of ethanol, 0.2 g (2 mmol) of conc. sulfuric acid and 10 ml of toluene, then sealed and allowed to react at 100° C. for 4 hours. Then, the reaction mixture was cooled to room temperature, neutralized with saturated NaHCO3, washed with water, and toluene was distilled off under reduced pressure. The residue was purified by column chromatography on silicagel using hexane-ethyl acetate as an eluent to give 1.01 g (21.4%) of 2-ethoxy-7-hydroxy-2,4,4-trimethylchroman as a colorless viscous liquid.

reactant | resorcin | 20 mmol, 2.2 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | acetone | 40 mmol, 2.32 g | CC(=O)C | C3H6O
reactant | ethanol | 200 mmol, 9.2 g | C(C)O | C2H6O
reactant | sulfuric acid | 2 mmol, 0.2 g | S(O)(O)(=O)=O | H2O4S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-ethoxy-7-hydroxy-2,4,4-trimethylchroman | 1.01 g, 21.4% | C(C)OC1(OC2=CC(=CC=C2C(C1)(C)C)O)C | C14H20O3
